US05891871
Methyl 2-(4-Methoxybenzoyl)-4,5-methylenedioxyphenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (244 mg, 1.26 mmol) in CH2Cl2 (5 mL), SnCl4 (1.0M solution in CH2Cl2 ; 2.5 mL 2.5 mmol) and 4-anisoyl chloride (220 μL, 1.62 mmol) as a white solid (110 mg, 27%). 1H NMR (CDCl3) 7.78 (d, 2H, J=8.6), 6.93 (d, 2H, J=8.6), 6.86 (s, 1H), 6.83 (s, 1H), 6.03 (s, 2H), 3.88 (s, 3H), 3.75 (s, 2H), 3.59 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 1.26 mmol, 244 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | SnCl4 | 2.5 mmol, 1.0M, 2.5 mL | Cl[Sn](Cl)(Cl)Cl
reactant | 4-anisoyl chloride | 1.62 mmol, 220 μL, 110 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-Methoxybenzoyl)-4,5-methylenedioxyphenylacetate | COC1=CC=C(C(=O)C2=C(C=C3C(=C2)OCO3)CC(=O)OC)C=C1 | C18H16O6
